US04196300
A. Methyl 2-tetradecylacrylate
14.6 Grams of 2-tetradecylacrylic acid (0.052 mole) are combined with 65 ml of absolute methanol and 15 ml of 51% BF3 in methanol in a 200 ml flask equipped with a condenser and drying tube. The system is heated under reflux for six hours (two layers appear when cooled). The mixture is concentrated to 1/2 volume and the acid is neutralized with saturated NaHCO3 solution to about pH 7. The oily material is extracted with ether, washed with water and dried over anhydrous MgSO4. The ether solvent is removed under reduced pressure. The oily residue of methyl 2-tetradecylacrylate (14.70 g) is not purified further (>95% pure by GC) and used directly in the next step.

reactant | 2-tetradecylacrylic acid | 0.052 mole | C(CCCCCCCCCCCCC)C(C(=O)O)=C | C17H32O2
reactant | BF3 | 15 ml | B(F)(F)F | BF3
reactant | methanol | CO | CH4O
reactant | methanol | 65 ml | CO | CH4O
product | Methyl 2-tetradecylacrylate | C(CCCCCCCCCCCCC)C(C(=O)OC)=C | C18H34O2
